US07087599B2
A mixture of 4-bromo-9a-butyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (29.6 mg, 0.0847 mmol), 5-benzyl-1-aza-5-stanna-bicyclo[3.3.3]undecane (38.5 mg, 85% weight pure, 0.0935 mmol), and Pd(PPh3)4 (9.8 mg, 0.00848 mmol) in anhydrous toluene (1.3 mL) was degassed, placed under a nitrogen atmosphere, stirred, and heated in an oil bath at 100° C. After heating 4 hours, the cloudy, dark brown reaction mixture was cooled in an ice bath and filtered through a pad of celite. The filtrate was evaporated under vacuum to an orange gum (57 mg). The crude product was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate, using 9:1 hexanes-EtOAc as developing solvent. The major UV visible band at Rf 0.18-0.26 was removed and eluted with EtOAc to afford 4-benzyl-9a-butyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (29 mg) as a pale yellow gum.

reactant | 4-bromo-9a-butyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.0847 mmol, 29.6 mg | BrC=1C(CCC2(CC3=CC(=CC=C3C12)OC)CCCC)=O | C18H21BrO2
reactant | 5-benzyl-1-aza-5-stanna-bicyclo[3.3.3]undecane | 0.0935 mmol, 38.5 mg | C(C1=CC=CC=C1)[Sn]12CCCN(CCC1)CCC2
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.00848 mmol, 9.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-benzyl-9a-butyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 29 mg | C(C1=CC=CC=C1)C=1C(CCC2(CC3=CC(=CC=C3C12)OC)CCCC)=O | C25H28O2
